US08748412B2
3-{4-[5-(4-tert-Butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluoro-phenyl}-2-[(6-p-tolyl-pyridine-2-carbonyl)-amino]-propionic acid 32
3-{4-[5-(4-tert-Butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluorophenyl}-2-[(6-p-tolyl-pyridine-2-carbonyl)-amino]-propionic acid ethyl ester. A mixture of 6-p-tolyl-pyridine-2-carboxylic acid (47 mg, 0.1 mmol), 2-amino-3-{4-[5-(4-tert-butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluorophenyl}propionic acid ethyl ester (30 mg), HATU (46 mg, 0.12 mmol), and Et3N (15 mg, 0.15 mmol) in dichloromethane (5 mL) was stirred at room temperature overnight. TLC showed the reaction was completed. Saturated aqueous NaHCO3 (20 mL) was added to the mixture, and organic and aqueous layers were separated. The aqueous portion was extracted with dichloromethane (2×50 mL). The combined organic layers were washed sequentially with aq. HCl (1N, 2×50 mL) and brine (50 mL), dried over anhydrous sodium sulfate, and filtered. The solvent was evaporated to give the title compound (53 mg, 80% yield).

reactant | 3-{4-[5-(4-tert-Butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluorophenyl}-2-[(6-p-tolyl-pyridine-2-carbonyl)-amino]-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)NC(=O)OC(C)(C)C)F)NC(=O)C1=NC(=CC=C1)C1=CC=C(C=C1)C)=O | C37H36FN5O6
reactant | 6-p-tolyl-pyridine-2-carboxylic acid | 0.1 mmol, 47 mg | C1(=CC=C(C=C1)C1=CC=CC(=N1)C(=O)O)C | C13H11NO2
reactant | 2-amino-3-{4-[5-(4-tert-butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluorophenyl}propionic acid ethyl ester | 30 mg | C(C)OC(C(CC1=CC(=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)NC(=O)OC(C)(C)C)F)N)=O | C24H27FN4O5
reactant | HATU | 0.12 mmol, 46 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.15 mmol, 15 mg | CCN(CC)CC | C6H15N
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-{4-[5-(4-tert-Butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluoro-phenyl}-2-[(6-p-tolyl-pyridine-2-carbonyl)-amino]-propionic acid | 53 mg, 80% yield | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)C1=NC(=NO1)C1=C(C=C(C=C1)CC(C(=O)O)NC(=O)C1=NC(=CC=C1)C1=CC=C(C=C1)C)F | C35H32FN5O6
